US09023865B2
In a manner similar to that described in Example 30 (Step 1), trans-ethyl 2-(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)cyclopropanecarboxylate was reacted with (S)-1-(2-methoxy-1-phenylethyl)urea (BrettPhos precatalyst, KOtBu, dioxane, 80° C.) to provide trans-2-(6-(3-((S)-2-methoxy-1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)cyclopropanecarboxylic acid. MS ESI calc'd. for C39H35N5O4[M+1]+ 638, found 638.

reactant | trans-ethyl 2-(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)cyclopropanecarboxylate | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C@H]2[C@@H](C2)C(=O)OCC | C31H26ClN3O2
reactant | (S)-1-(2-methoxy-1-phenylethyl)urea | COC[C@H](C1=CC=CC=C1)NC(=O)N | C10H14N2O2
product | trans-2-(6-(3-((S)-2-methoxy-1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)cyclopropanecarboxylic acid | COC[C@H](C1=CC=CC=C1)NC(NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C@H]2[C@@H](C2)C(=O)O)=O | C39H35N5O4
